US04064246
1.555 g of 3,4-dihydro-1-isopropyl-4-(3-methoxyphenyl)-7-methyl-2(1H)-quinazolinone in 40 ml of p-dioxane is charged to a vessel having a dropping funnel, agitation means and thermometer. The charged vessel is cooled in a water bath (running water at 14°); a solution of 0.88 g of potassium permanganate in 20 ml of water is placed in the dropping funnel, which is then added dropwise to the vessel with stirring during which temperatures range from 15° to 18° C). The reaction mixture is then allowed to rise to room temperature (26°), at which it is stirred for 2 hr. 20 min.; 0.38 ml of aqueous formaldehyde (37%) is then added, and the mixture stirred for 10 minutes. The mixture is then filtered through celite (diatomaceous earth), and the filtrate retained. The filter cake is then washed with 75 ml of water/p-dioxane (20:15), the washings and filtrate are combined, extracted four times with 20 ml portions methylenechloride. The combined extracts are then evaporated to dryness to obtain a residue which is taken up in 100 ml benzene, 100 ml of petroleum ether added thereto, the solution filtered through 0.5 g of charcoal, (at room temperature) and then evaporated to dryness to obtain 1-isopropyl-4-(3-methoxyphenyl)-7-methyl-2(1H)-quinazolinone.

reactant | 3,4-dihydro-1-isopropyl-4-(3-methoxyphenyl)-7-methyl-2(1H)-quinazolinone | 1.555 g | C(C)(C)N1C(NC(C2=CC=C(C=C12)C)C1=CC(=CC=C1)OC)=O | C19H22N2O2
reactant | potassium permanganate | 0.88 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | formaldehyde | 0.38 ml | C=O | CH2O
solvent | p-dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-isopropyl-4-(3-methoxyphenyl)-7-methyl-2(1H)-quinazolinone | C(C)(C)N1C(N=C(C2=CC=C(C=C12)C)C1=CC(=CC=C1)OC)=O | C19H20N2O2
